US07622502B2
Step 1: hex-5-en-1-yl 4-nitrobenzoate
To a solution of hex-5-en-1-ol (20.0 g, 200 mmol) in CH2Cl2 (350 mL, 0.57 M) at 0° C. was added triethylamine (33.7 mL, 240 mmol, 1.2 equiv), DMAP (1.22 g, 10 mmol, 0.05 equiv) and then 4-Nitrobenzoyl chloride (39 g, 210 mmol, 1.05 equiv.). The reaction was stirred at rt for 2 h. The reaction mixture was quenched with a saturated NH4Cl solution and extracted 3 times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The product was purified by combi-flash 2×120 g silica gel cartridge using gradient (0-5% in 5 min, 5-25% in 30 min, 25-40% EA/Hex in 10 min) to afford the desired product (35 g, Yield=70%) as a yellowish oil. 1H NMR (500 MHz, acetone-d6): δ 8.36 (d, 2H), 8.26 (d, 2H), 5.87-5.79 (m, 1H), 5.03 (d, 1H), 4.94 (d, 1H), 4.38 (t, 2H), 2.14 (m, 2H), 1.84-1.78 (m, 2H), 1.60-1.54 (m, 2H).

reactant | hex-5-en-1-ol | 200 mmol, 20.0 g | C(CCCC=C)O | C6H12O
reactant | triethylamine | 240 mmol, 33.7 mL, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-Nitrobenzoyl chloride | 210 mmol, 39 g, 1.05 equiv. | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | CH2Cl2 | 0.57 M, 350 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mmol, 1.22 g, 0.05 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | hex-5-en-1-yl 4-nitrobenzoate | 35 g, Yield=70% | [N+](=O)([O-])C1=CC=C(C(=O)OCCCCC=C)C=C1 | C13H15NO4
